US06858627B2
4-Allylsulfanylmethyl-6-biphenyl-2-yl-2,2-dimethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 2-biphenylboronic acid. Bromination and coupling reaction with allyl mercaptan gave 13 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 2-biphenylboronic acid | C=1(C(=CC=CC1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-6-biphenyl-2-yl-2,2-dimethyl-1,2-dihydroquinoline | 13 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)C1=CC=CC=C1)(C)C | C27H27NS
